US06835848B1
To a mixture of 2.4-dibromo-3-(difluoromethoxy) benzoic acid (10 g) and thionyl chloride (4.38 gm) was added a mixture of toluene (15 ml) and N,N-dimethyl formamide (0.2 ml). The reaction mixture was heated slowly to reflux and stirred at reflux for about 2.5 hours. The reaction mixture was then cooled to 35° C. and added a solution of ethyl 3,3-dimethylaminoacrylate (4.13 gm), and triethylamine (3.79 gm) in toluene (20 ml) drop-wise during a period of about 1 hour maintaining a temperature of 35-40° C. After the addition was over, the reaction temperature was slowly increased to 60-65° C. and stirred the reaction mixture for about 24 hours. Cooled the reaction mixture to 30° C., added water (20 ml) and stirred for about 10 minutes. The organic layer was separated, cooled to about 5° C. and cyclopropylamine (1.82 gm) was added to it drop-wise maintaining temperature at 8-10° C. during a period of about 10 minutes. Stirred the reaction mixture for about 2 hours, solvent was removed under vacuum (˜80% of the original amount) and cooled the reaction mixture to about 20° C. The solid separated was filtered and dried to afford ethyl 3-cyclopropylamino-2-[2,4-dibromo-3(difluoromethoxy) benzoyl]-2-propenoate (10 gm).

reactant | 2.4-dibromo-3-(difluoromethoxy) benzoic acid | 10 g | BrC1=C(C(=O)O)C=CC(=C1OC(F)F)Br | C8H4Br2F2O3
reactant | thionyl chloride | 4.38 gm | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethyl formamide | 0.2 ml | CN(C=O)C | C3H7NO
reactant | ethyl 3,3-dimethylaminoacrylate | 4.13 gm | CNC(=CC(=O)OCC)NC | C7H14N2O2
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 20 ml | O | H2O
solvent | triethylamine | 3.79 gm | C(C)N(CC)CC | C6H15N
product | ethyl 3-cyclopropylamino-2-[2,4-dibromo-3(difluoromethoxy) benzoyl]-2-propenoate | 10 gm | C1(CC1)NC=C(C(=O)OCC)C(C1=C(C(=C(C=C1)Br)OC(F)F)Br)=O | C16H15Br2F2NO4
